US04626538
An 11.61 g portion of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide was reacted with propynyl bromide as described in Example 6, giving N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-2-propynylacetamide, mp 98°-101° C.

reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide | CN(C=CC(=O)C=1C=C(C=CC1)NC(C)=O)C | C13H16N2O2
reactant | propynyl bromide | C(#CC)Br | C3H3Br
product | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-2-propynylacetamide | CN(C=CC(=O)C=1C=C(C=CC1)N(C(C)=O)CC#C)C | C16H18N2O2
